US04075221
In the manner given in Example 1, a solution of 7-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide, N,N,N',N'-tetramethyldiaminomethane and acetyl chloride (in 0.25 molar excess compared to the N,N,N',N'-tetramethyldiaminomethane) are reacted together to give 7-chloro-1-[2-(dimethylamino)ethyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7-chloro-1-methyl-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC1=CC=CC2=C1C(=NCC=1N2C(=NN1)C)C1=C(C=CC=C1)Cl | C17H12Cl2N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N,N',N'-tetramethyldiaminomethane | CN(C)CN(C)C | C5H14N2
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | 7-chloro-1-[2-(dimethylamino)ethyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CCN(C)C)C1=C(C=CC=C1)Cl | C20H19Cl2N5
